US07619092B2
To Grignard reagent prepared from 14.2 g of magnesium, 93.1 g of 2-bromo-5-fluorotoluene and 500 ml of tetrahydrofuran was added dropwise 50 ml of 4-methoxypyridine at −20° C. under nitrogen atmosphere. After completion of dripwise addition, the mixture was stirred at the same temperature for 20 minutes. Further, the reaction mixture was cooled down to −50° C., and 85 ml of benzylchlorocarbonate was added dropwise, while keeping the temperature at −40° C. or below. After completion of dropwise addition, the temperature of the reaction mixture was slowly raised, 200 g of ice was added thereto at −15C, and the mixture was stirred for 30 minutes. Further, 200 ml of a 5M aqueous citric acid solution was added thereto and the mixture was stirred at room temperature for an hour. From the reaction mixture tetrahydrofuran was removed by distillation under reduced pressure. To the residue was added 200 ml of ethyl acetate and the mixture was extracted twice. The organic layers were combined and washed with an aqueous sodium hydrogen carbonate solution and saturated brine, dried over magnesium sulfate, and the solvent was removed by distillation under reduced pressure. The residue was collected by filtration and washed with isopropyl ether, to give 146.5 g of 1-benzyloxycarbonyl-2-(4-fluoro-2-methylphenyl)-4-oxo-3,4-dihydro-2H-pyridine as shown in Table 125 below.

reactant | magnesium | 14.2 g | [Mg] | Mg
reactant | 2-bromo-5-fluorotoluene | 93.1 g | BrC1=C(C=C(C=C1)F)C | C7H6BrF
reactant | 4-methoxypyridine | 50 ml | COC1=CC=NC=C1 | C6H7NO
reactant | benzylchlorocarbonate | 85 ml | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | citric acid | 5M | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 1-benzyloxycarbonyl-2-(4-fluoro-2-methylphenyl)-4-oxo-3,4-dihydro-2H-pyridine | 146.5 g | C(C1=CC=CC=C1)OC(=O)N1C(CC(C=C1)=O)C1=C(C=C(C=C1)F)C | C20H18FNO3
